US04377576
5,10-Dihydro-10-methyl-5-[3-morpholino-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride
6.3 gm (0.02 mol) of 5-(3-chloro-propionyl)-5,10-dihydro-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one and 10 gm (0.11 mol) of morpholine were refluxed in 200 ml of isopropanol for 3 hours. After distilling off the solvent, the residue was dissolved in methylene chloride, and the solution was washed with water and evaporated in vacuo. The residue was dissolved in ethanol, and the solution was adjusted to pH 4 with hydrochloric acid. The resulting hydrochloride was recrystallized from isopropanol.

reactant | 5-(3-chloro-propionyl)-5,10-dihydro-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.02 mol, 6.3 gm | ClCCC(=O)N1C2=C(N(C(C3=C1C=CC=C3)=O)C)C=CC=C2 | C17H15ClN2O2
reactant | morpholine | 0.11 mol, 10 gm | N1CCOCC1 | C4H9NO
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 5,10-Dihydro-10-methyl-5-[3-morpholino-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride | Cl.CN1C2=C(N(C3=C(C1=O)C=CC=C3)C(CCN3CCOCC3)=O)C=CC=C2 | InChI=1S/C21H23N3O3.ClH/c1-22-18-8-4-5-9-19(18)24(17-7-3-2-6-16(17)21(22)26)20(25)10-11-23-12-14-27-15-13-23;/h2-9H,10-15H2,1H3;1H
